US09145429B2
A mixture of 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinamide (0.2 g, 0.61 mmol) in acetonitrile (20 mL) was added POCl3 (0.28 g, 1.84 mmol) and pyridine (0.29 g, 3.68 mmol). After stirred at r.t for 1 hr, the mixture was diluted by 0.2 M NaOH solution, extracted by EtOAc and the organic layer was concentrated in vacuo to afford 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile. (180 mg, 95.7%). 1H-NMR (400 MHz, CDCl3) δ (ppm) 8.14 (s, 1H), 4.64-4.61 (t, 2H), 3.83-3.81 (t, 2H), 3.72-3.66 (m, 1H), 1.19-1.17 (d, 6H).

reactant | 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinamide | 0.61 mmol, 0.2 g | ClC1=NC(=C(C(=O)N)C=C1C(F)(F)F)OCCOC(C)C | C12H14ClF3N2O3
reactant | POCl3 | 1.84 mmol, 0.28 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 3.68 mmol, 0.29 g | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 0.2 M | [OH-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile | ClC1=NC(=C(C#N)C=C1C(F)(F)F)OCCOC(C)C | C12H12ClF3N2O2
